US05852019
(1) 1-[5-Methyl-1-(2-pyrimidinyl)-4-pyrazolyl]-3-[4-(2-pyridyl)-1-piperazinyl]-1-propanone hydrochloride
606 mg of 4-acetyl-1-(2-pyrimidinyl)-5-methylpyrazole was dissolved in 60 ml of ethanol and 490 mg of 2-pyridylpiperazine hydrochloride and 270 mg of paraformaldehyde were added thereto. The obtained mixture was heated under reflux for 24 hours. Further, 100 mg of paraformaldehyde was added and the obtained mixture was heated under reflux for 60 hours. Then the ethanol was almost halved by evaporation and the precipitate was filtered. To the precipitate was added chloroform. Next, it was washed with a saturated aqueous solution of sodium hydrogencarbonate and a saturated aqueous solution of sodium chloride, and dried over anhydrous sodium sulfate followed by evaporation. The residue was purified by silica gel column chromatography (silica gel 50 g, chloroform:methanol=50:1-40:1). Then the obtained product was converted into hydrochloride by adding 1N hydrochloric acid and recrystallized from ethanol to thereby give 300 mg of the title compound.

reactant | 4-acetyl-1-(2-pyrimidinyl)-5-methylpyrazole | 606 mg | C(C)(=O)C=1C=NN(C1C)C1=NC=CC=N1 | C10H10N4O
reactant | 2-pyridylpiperazine hydrochloride | 490 mg | Cl.N1=C(C=CC=C1)N1CCNCC1
reactant | paraformaldehyde | 270 mg | C=O | CH2O
reactant | paraformaldehyde | 100 mg | C=O | CH2O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 1-[5-Methyl-1-(2-pyrimidinyl)-4-pyrazolyl]-3-[4-(2-pyridyl)-1-piperazinyl]-1-propanone hydrochloride | 300 mg | Cl.CC1=C(C=NN1C1=NC=CC=N1)C(CCN1CCN(CC1)C1=NC=CC=C1)=O | InChI=1S/C20H23N7O.ClH/c1-16-17(15-24-27(16)20-22-8-4-9-23-20)18(28)6-10-25-11-13-26(14-12-25)19-5-2-3-7-21-19;/h2-5,7-9,15H,6,10-14H2,1H3;1H
